US05491200
Methyl 2-chloro-5-nitrobenzoate
A mixture of 2-chloro-5-nitrobenzoic acid (70.0 g, 0.35 mol), 280 ml of methanol and 27 ml of concentrated sulfuric acid is added to a 500 ml, three-necked round-bottom flask equipped with an overhead stirrer and condenser, and the solution is stirred and heated at reflux for 24 hours. After the solution cools, yellow crystals form and are collected by filtration. The product is washed with water and recrystallized from ethyl acetate/hexane to yield 68 percent of yellow crystals: mp 69.5°-70.0°.

reactant | 2-chloro-5-nitrobenzoic acid | 0.35 mol, 70.0 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | sulfuric acid | 27 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 280 ml | CO | CH4O
product | Methyl 2-chloro-5-nitrobenzoate | 68 percent | ClC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
